US08530490B2
Synthesis of 1-(3-(cyclopropylmethoxy)phenyl)ethanamine
3-Hydroxybenzaldehyde (692 mg) was dissolved in DMF (25 mL). To the solution, potassium carbonate (1.56 g), potassium iodide (95 mg), and (chloromethyl)cyclopropane (578 μL) were added, and the mixture was stirred at 90° C. for 4 hours. To the reaction mixture, water (20 mL) was added, and the resultant mixture was then extracted with toluene (20 mL). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was dissolved in THF (2.5 mL). To the mixture, a solution of methylmagnesium bromide in THF (1.0 M, 6.5 mL) was added dropwise at 0° C., and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution (10 mL) was added at 0° C., and the resultant mixture was then extracted with ethyl acetate (20 mL×2). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane). The obtained compound was dissolved in THF (5.0 mL). To the solution, diphenylphosphoryl azide (875 μL) and DBU (592 μL) were added dropwise at room temperature, and the mixture was stirred for 1 hour. To the reaction mixture, brine (10 mL) was added, and the resultant mixture was then extracted with ethyl acetate (20 mL×2). The organic layer was washed with brine (10 mL), dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20% ethyl acetate/hexane). The obtained compound was dissolved in methanol (7.5 mL). To the solution, 10% palladium-carbon (180 mg) was added, and the reaction mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. The precipitate was removed by filtration through a pad of Celite and washed with methanol (100 mL). Then, the combined filtrate was concentrated under reduced pressure to obtain the title compound (740 mg) as a crude product.

reactant | 3-Hydroxybenzaldehyde | 692 mg | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | potassium carbonate | 1.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 95 mg | [I-].[K+]
reactant | (chloromethyl)cyclopropane | 578 μL | ClCC1CC1 | C4H7Cl
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 1-(3-(cyclopropylmethoxy)phenyl)ethanamine | 740 mg | C1(CC1)COC=1C=C(C=CC1)C(C)N | C12H17NO
